US05932591
p-Fluorophenyl Ketone 3
To a solution of nitrile 1 (900 mg, 5.02 mmol) in ether (45 mL) at 0° C. was added via syringe p-fluorophenylmagnesium bromide (5.0 mL, 2.0 M solution in ether 10 mmol). The resulting turbid mixture was stirred at 0° C. for 5 min then warmed to r.t. and stirred for 6 h. At that time, the reaction was quenched with H2O (3 mL) and then diluted with ether (25 mL) and H2O (25 mL). The organic phase was separated, and the aqueous phase was extracted with ether (80 mL×2). The organic portions were combined, washed with saturated aqueous NaCl, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography (30 g short path, 1%→10% EtOAc/hexane) to give the desired product (700 mg, 2.53 mmol, 50%) as a pale yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.97 (m, 2H), 7.11 (m, 2H), 5.79 (d, J=2.0 Hz, 1H), 3.41 (s, 3H), 2.97-2.81 (m, 3H), 2.00 (m, 2H), 1.82 (m, 1H), 1.74 (m, 2H), 1.65 (m, 1H), 1.53 (m, 3H), 1.21 (m, 1H); 13C NMR (100 MHz, CDCl3) δ 199.0, 165.3 (d, J=253 Hz), 140.4, 133.7 (d, J=3.0 Hz), 130.4 (d, J=9.1 Hz), 118.8, 115.3 (d, J=22.0 Hz), 59.0, 36.6, 32.5, 31.6, 28.2, 26.4, 25.7, 21.6.

reactant | p-fluorophenylmagnesium bromide | 10 mmol, 2.0 M, 5.0 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | ether | 45 mL | CCOCC | C4H10O
product | p-Fluorophenyl Ketone | 2.53 mmol, 700 mg, 50% | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)F | C13H8F2O
